US06353006B1
3-Aminoquinoline was converted to 3-quinoline isothiocyanate according to Method A2c. (1S)-1-(Hydroxymethyl)-3-methylbutylamine was made from (L)-leucine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (2S)-4-methyl-2-(isobutylamino)pentanol as described in Method B4c, Steps 1-2. The alcohol was converted to N-(1S)-1-(chloromethyl)-3-methylbutyl)-N-(isobutyl)ammonium chloride as described in Method B7c. 3-Quinoline isothiocyanate was reacted with N-(1S)-1-(chloromethyl)-3-methylbutyl)-N-(isobutyl)ammonium chloride according to Method C1f to give 2-(3-quinolylimino)-3,5-diisobutyl-1,3thiazolidine.

reactant | 3-Aminoquinoline | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | 3-quinoline isothiocyanate | C1=CC=C2C(=C1)C=C(C=N2)N=C=S | C10H6N2S
reactant | (1S)-1-(Hydroxymethyl)-3-methylbutylamine | OC[C@H](CC(C)C)N | C6H15NO
reactant | (L)-leucine methyl ester | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | (2S)-4-methyl-2-(isobutylamino)pentanol | CC(C[C@@H](CO)NCC(C)C)C | C10H23NO
reactant | N-(isobutyl)ammonium chloride | [Cl-].C(C(C)C)[NH3+]
product | 2-(3-quinolylimino)-3,5-diisobutyl-1,3thiazolidine | N1=CC(=CC2=CC=CC=C12)N=C1SC(CN1CC(C)C)CC(C)C | C20H27N3S
